Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Respiratory distress

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of asthma/COPD with several recent admissions 
for exacerbations of same, CAD status post PCI x2 (___) and 
STEMI ___, medically managed), PVD, and HTN, who presented 
with acute shortness of breath. 

Patient was in her usual state of health until ~5AM this 
morning, when she woke family crying out complaining of 
difficulty breathing. EMS arrived and found the patient to be 
hypoxic to ___. Patient was given one DuoNeb with significant 
improvement in both symptoms and oxygenation, but placed patient 
on CPAP for her increased work of breathing. O2 saturation 
improved to 100s prior to arrival in the ED.

Of note, patient was recently admitted ___ with 
shortness of breath and associated chest pain, felt to be 
secondary to acute exacerbation of COPD. She initially required 
BiPAP but was weaned to RA in the ED following administration of 
DuoNebs, azithromycin and steroids. Received five day prednisone 
burst and azithromycin with improvement in symptoms and was 
discharged home. Hospitalization was notable for type II NSTEMI, 
___ likely pre-renal in etiology, hyponatremia felt secondary to 
hypovolemia, and anion gap acidosis likely secondary to lactic 
acidosis in the setting of hypoxia. She was also admitted 
___ with a very similar presentation. 

In the ED, initial VS signs were notable for;
Temp 98.7  HR 91  BP 151/84  RR 26  SaO2 100% RA 

Examination was notable for;
Tachypnea, diffuse wheezing and scattered crackles, pitting 
symmetric lower extremity edema.

Labs were notable for;
WBC 6.6  Hgb 11.2  Plt 201
___ 13.0  PTT 33.2  INR 1.2
Na 129  K 5.7  Cl 95  HCO3 18  BUN 15  Cr 1.3  Gluc 197
Ca 8.8  Mg 2.0  Phos 5.6
Trop T <0.01  NT-proBNP 2593
Influenza A/B PCR negative
VBG: ___  Lactate 2.8

Urine studies unremarkable.

ECG with rate 84bpm, sinus rhythm, normal axis, normal intervals 
except for mild IVCD, no Q waves, poor R wave progression, 
non-specific ST abnormalities, T wave flattening/inversion in 
V5-V6, I/avL, similar to previous.

CXR with streaky bibasilar and retrocardiac opacities may 
represent atelectasis, although PNA/aspiration cannot be 
excluded, unchanged moderate cardiomegaly and mild pulmonary 
vascular congestion.

Patient was given;
- IV furosemide 40mg
- IV methylprednisolone 80mg
- DuoNeb x3
- IV cefepime 2g
- IV azithromycin 500mg
- IV vancomycin 1000mg
- Albuterol neb x2

Patient was taken off BiPAP, and following administration of 
further nebulizer treatment, IV methylprednisolone, and IV 
furosemide, she was weaned off BiPAP to nasal cannula. However, 
despite improvement in symptoms and oxygentation, patient 
continued to look unwell, requiring frequent nebulizer 
treatment, and was transferred to the ICU.

Vital signs on transfer notable for;
HR 82  BP 123/74  RR 14  SaO2 99% 2L NC 
 
Past Medical History:
- Asthma/COPD
- CAD s/p PCI to LCx and RCA ___ and subsequent NSTEMI in ___ 
and ___ STEMI medically managed ___
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: Temp 97.5  HR 81  BP 118/47  RR 20  SaO2 98% RA 
GENERAL: lying comfortably in bed, mildly short of breath, no 
distress
HEENT: AT/NC, EOMI, no conjunctival pallor, anicteric sclera, 
MMM
CV: regular rhythm, tachycardia, S1/S2 normal, no 
murmurs/rubs/gallops
RESP: good air entry, no wheezes/crackles 
___: soft, non-tender, no distention, BS normoactive
EXTREMITIES: warm, well perfused, trace lower extremity 
SKIN: no rashes/wounds
NEURO: A/O x3, grossly intact
PSYCH: good affect

Discharge:
=========================
GENERAL: After initial dyspneic episode, Lying comfortably in
bed, mildly short of breath, no distress
HEENT: AT/NC, EOMI, no conjunctival pallor, anicteric sclera, 
MMM
CV: regular rhythm, tachycardia, S1/S2 normal, no
murmurs/rubs/gallops. JVD elevated to 12 cm
RESP: Improved air movement, wheezing improved throughout with
bibasilar crackles.
___: soft, non-tender, significantly distention, BS normoactive
EXTREMITIES: warm, well perfused, trace lower extremity 
SKIN: no rashes/wounds
NEURO: A/O x3, grossly intact
PSYCH: friendly, good affect

 
Pertinent Results:
ADMISSION LABS
========================
___ 07:00AM BLOOD WBC-6.6 RBC-3.63* Hgb-11.2 Hct-34.1 
MCV-94 MCH-30.9 MCHC-32.8 RDW-13.7 RDWSD-46.5* Plt ___
___ 07:00AM BLOOD Neuts-59.3 ___ Monos-9.5 Eos-2.4 
Baso-0.6 Im ___ AbsNeut-3.94 AbsLymp-1.83 AbsMono-0.63 
AbsEos-0.16 AbsBaso-0.04
___ 07:00AM BLOOD ___ PTT-33.2 ___
___ 07:00AM BLOOD Glucose-197* UreaN-15 Creat-1.3* Na-129* 
K-5.7* Cl-95* HCO3-18* AnGap-16
___ 07:00AM BLOOD proBNP-2593*
___ 07:00AM BLOOD cTropnT-<0.01
___ 07:00AM BLOOD Calcium-8.8 Phos-5.6* Mg-2.0
___ 08:00AM BLOOD ___ pO2-77* pCO2-54* pH-7.24* 
calTCO2-24 Base XS--4
___ 08:00AM BLOOD Lactate-2.8* K-4.9

RELEVANT IMAGING 
========================
___ CXR AP
1.  Streaky bibasilar and retrocardiac opacities may represent 
atelectasis, although pneumonia/aspiration cannot be excluded in 
the appropriate clinical setting. 
2.  Unchanged moderate cardiomegaly and mild pulmonary vascular 
congestion. 

___ CXR AP
Mild pulmonary vascular congestion developed on ___, 
with minimal 
pulmonary edema reflected in bronchial cuffing, subsequently 
unchanged. 
Bibasilar opacification is probably a combination of dependent 
edema and 
atelectasis particularly on the right but should be followed to 
detect any 
findings of pneumonia.  Pleural effusions are small.  Severe 
cardiomegaly is chronic.  No pneumothorax. 

___ ABDOMEN XR
No evidence of bowel obstruction.

Discharge Labs:

___ 05:43AM BLOOD WBC-7.1 RBC-3.60* Hgb-10.8* Hct-31.9* 
MCV-89 MCH-30.0 MCHC-33.9 RDW-13.7 RDWSD-44.6 Plt ___
___ 07:00AM BLOOD Neuts-59.3 ___ Monos-9.5 Eos-2.4 
Baso-0.6 Im ___ AbsNeut-3.94 AbsLymp-1.83 AbsMono-0.63 
AbsEos-0.16 AbsBaso-0.04
___ 05:43AM BLOOD Plt ___
___ 07:00AM BLOOD ___ PTT-33.2 ___
___ 05:43AM BLOOD Glucose-121* UreaN-28* Creat-1.5* Na-133* 
K-4.6 Cl-91* HCO3-32 AnGap-10
 
Brief Hospital Course:
Ms. ___ is a lovely ___ woman with a PMH pertinent for 
COPD with several recent admissions for exacerbations of same, 
CAD status post PCI x2 (___) and STEMI ___, medically 
managed), PVD, and HTN, who presented with acute shortness of 
breath, found to have acute exacerbation of COPD and CHF.

============
ACUTE ISSUES
============

# s/p Acute hypoxic respiratory failure
# s/p ?COPD exacerbation
# sCHF: last EF in ___ is 39%
She presented with acute shortness of breath and hypoxia, and 
there was concern for COPD and CHF, so she was started on IV 
steroids, given IV Lasix in the ED. She was also given broad 
spectrum antibiotics for pneumonia but no clear pneumonia on 
XRay, but eventually this was narrowed to Levaquin for 7 days of 
treatment. ___ she had another episode where she felt very 
short of breath and O2 sats dipped into low 80's on room air. 
She improved quickly with breathing treatment, IV steroids, and 
more Lasix and quickly improved. Since that time, her breathing 
was comfortable and she was quickly weaned to room air. She will 
be continued on levaquin 750 mg q48h for 7 days (Next doses 
___, and ___. She should also continue prednisone for 
through ___ then stop. She should follow up with Dr. ___ 
in pulmonary sooner than previously scheduled.

# ___ on CKD
# Hyponatremia
# Hyperkalemia
Baseline creatinine 0.9-1.1. Admission creatinine 1.3 and rising 
to 1.5. Suspected an element of vascular congestion in the 
setting of CHF but her creatinine remained stable at 1.5 on day 
of discharge.
======================
CHRONIC/STABLE ISSUES: 
======================

# CAD 
# PVD
- continue clopidogrel 75mg daily
- continue apixaban 2.5mg BID
- continue atorvastatin 80mg daily
- continue metoprolol succinate 50mg daily 
- continue ISMN 60mg daily

# GERD
- continue omeprazole 40mg daily
- elevate head of bed/use wedge under pillow when sleeping 

# HTN
- will hold losartan given ___

# Constipation
- continue docusate 100mg BID
- continue senna 8.6mg BID
- continue polyethylene glycol 17g daily:PRN

# Peripheral neuropathy 
- continue gabapentin 300mg daily

# Insomnia
- continue mirtazapine 15mg QHS
- continue ramelteon 8mg QHS:PRN

Transitional Issues;
[] Close follow up with Pulmonary for COPD management going 
forward.
[] Will return home to family's care with 24 hour supervision. 
We were able to get her a hospital bed for home as well.

More than 30 minutes were spent preparing this discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
2. Apixaban 2.5 mg PO BID 
3. Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H 
4. Atorvastatin 80 mg PO QPM 
5. Calcium Carbonate 1500 mg PO BID 
6. Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN throat pain 
7. Clopidogrel 75 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Gabapentin 300 mg PO DAILY 
10. Ipratropium-Albuterol Neb 1 NEB NEB TID:PRN wheezing 
11. Losartan Potassium 25 mg PO DAILY 
12. Mirtazapine 15 mg PO QHS 
13. Multivitamins W/minerals 1 TAB PO DAILY 
14. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
15. Omeprazole 40 mg PO DAILY 
16. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
17. Ramelteon 8 mg PO QHS:PRN insomnia 
18. Senna 8.6 mg PO BID 
19. Budesonide Nasal Inhaler  (*NF*) 1 mg Other TID 
20. ketotifen fumarate (bulk) 1 drop each eye BID 
21. Metoprolol Succinate XL 50 mg PO DAILY 
22. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 

 
Discharge Medications:
1.  Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Levofloxacin 750 mg PO Q48H 
last dose ___ 
RX *levofloxacin 750 mg 1 tablet(s) by mouth every 48 hours Disp 
#*2 Tablet Refills:*0 
3.  PredniSONE 30 mg PO DAILY Duration: 3 Doses 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
This is dose # 1 of 3 tapered doses
RX *prednisone 10 mg as dir tablet(s) by mouth daily Disp #*18 
Tablet Refills:*0 
4.  PredniSONE 20 mg PO DAILY Duration: 3 Doses 
Start: After 30 mg DAILY tapered dose 
This is dose # 2 of 3 tapered doses 
5.  PredniSONE 10 mg PO DAILY Duration: 3 Doses 
Start: After 20 mg DAILY tapered dose 
This is dose # 3 of 3 tapered doses 
6.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
7.  Apixaban 2.5 mg PO BID  
8.  Artificial Tears GEL 1% ___ DROP BOTH EYES Q6H  
9.  Atorvastatin 80 mg PO QPM  
10.  Budesonide Nasal Inhaler  (*NF*) 1 mg Other TID  
11.  Calcium Carbonate 1500 mg PO BID  
12.  Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN throat pain  
13.  Clopidogrel 75 mg PO DAILY  
14.  Docusate Sodium 100 mg PO BID  
15.  Gabapentin 300 mg PO DAILY  
16.  Ipratropium-Albuterol Neb 1 NEB NEB TID:PRN wheezing  
17.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
18.  ketotifen fumarate (bulk) 1 drop each eye BID  
19.  Losartan Potassium 25 mg PO DAILY  
20.  Metoprolol Succinate XL 50 mg PO DAILY  
21.  Mirtazapine 15 mg PO QHS  
22.  Multivitamins W/minerals 1 TAB PO DAILY  
23.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
24.  Omeprazole 40 mg PO DAILY  
25.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
26.  Ramelteon 8 mg PO QHS:PRN insomnia  
27.  Senna 8.6 mg PO BID  
28.Hospital Bed
Dx: systolic congestive heart failure
ICD10: I50.20
___: at least 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: # s/p Acute hypoxic respiratory failure
# s/p ?COPD exacerbation
# sCHF: last EF in ___ is 39%

Secondary:
# ___ on CKD
# Hyponatremia
# Hyperkalemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you were having difficulty 
breathing. We found that you had worsening of your COPD and CHF. 
We treated you with medications for this and you felt better. We 
had the physical therapists work with you and they recommended 
that you return home with your family. We are working on getting 
you a hospital bed for your home.

We wish you the best.

Sincerely,

Your care team at ___
 
Followup Instructions:
___